US07923573B2
According to a method similar to Example (26-3) and Example (68), from methyl {4-bromo-2-[(dimethylamino)carbonyl]phenyl}acetate (102 mg, 0.340 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (90 mg, 0.408 mol), methyl {3-[(dimethylamino)carbonyl]-4′-hydroxy-1,1′-biphenyl-4-yl}acetate was obtained (82 mg, two-step total yield: 77%).

reactant | methyl {4-bromo-2-[(dimethylamino)carbonyl]phenyl}acetate | 0.340 mmol, 102 mg | BrC1=CC(=C(C=C1)CC(=O)OC)C(=O)N(C)C | C12H14BrNO3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.408 mol, 90 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
product | methyl {3-[(dimethylamino)carbonyl]-4′-hydroxy-1,1′-biphenyl-4-yl}acetate | yield: 77% | CN(C(=O)C=1C=C(C=CC1CC(=O)OC)C1=CC=C(C=C1)O)C | C18H19NO4
